US07595405B2
D-Alanine (3.5 g, 39.3 mmol) was added in small portions to a suspension of LiAlH4 (2.89 g, 76.26 mmol) in refluxing THF. Refluxing continued for 12 hours, then the reaction mixture was cooled to 0° C., and excess reagent was quenched by careful addition of an aqueous 15% NaOH solution (3 ml) and water (9 ml). After stirring at room temperature for 10 minutes, a solution of (Boc)2O (8.31 g, 38.13 mmol) in CH2Cl2 (40 ml) was added. The reaction mixture was stirred at 60° C. for 6 hours, cooled to room temperature, filtered through a pad of anhydrous Na2SO4, and the filtrate concentrated under vacuum. Purification of the residue by silica-gel column chromatography afforded (S)-Boc-2-amino-propanol as a white solid, yield: 63%. MS (M+H)=176.

reactant | D-Alanine | 39.3 mmol, 3.5 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | LiAlH4 | 76.26 mmol, 2.89 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | C1CCOC1 | C4H8O
reactant | (Boc)2O | 38.13 mmol, 8.31 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | (S)-Boc-2-amino-propanol | yield: 63% | C(=O)(OC(C)(C)C)[C@H](C(C)N)O | C8H17NO3
